US07601714B2
To a solution of the above (2-chloro-pyridin-3-yl)-methanol (2.2 g, 15.1 mmol) and DPPA (3.9 mL, 18.2 mmol) in toluene (30 mL) was added DBU (2.9 mL, 18.2 mmol) at room temperature and stirred for 3 h. The reaction was diluted with 3M HCl (30 mL) and Et2O (75 mL). The layers were separated and the aqueous layer was extracted with Et2O (75 mL). The combined organic layers were washed with water (50 mL), brine and dried over MgSO4. The solution was filtered and concentrated in vacuo to yield a yellow oil. Silica gel column chromatography using 95:5 hexanes:EtOAc afforded 2.0 g (77%) of 3-azidomethyl-2-chloro-pyridine as a colorless oil.

reactant | (2-chloro-pyridin-3-yl)-methanol | 15.1 mmol, 2.2 g | ClC1=NC=CC=C1CO | C6H6ClNO
reactant | DPPA | 18.2 mmol, 3.9 mL | C=1C=CC(=CC1)P(=O)(C=2C=CC=CC2)N=[N+]=[N-] | C12H10N3OP
reactant | DBU | 18.2 mmol, 2.9 mL | C1CCC2=NCCCN2CC1 | C9H16N2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
solvent | HCl | 3M, 30 mL | Cl | ClH
solvent | Et2O | 75 mL | CCOCC | C4H10O
product | 3-azidomethyl-2-chloro-pyridine | 2.0 g, 77% | N(=[N+]=[N-])CC=1C(=NC=CC1)Cl | C6H5ClN4
